Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, Weakness  
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ man from ___ with 
multiple
recent tick exposures who was feeling well and in his usual 
state
of health until the evening of ___, when he first noticed
symptoms of increased fatigue, weakness, malaise, headache, and
paraspinal neck and back pain. He does have chronic right
paraspinal muscle spasms that tend to flare up, similar to his
current symptoms. On ___, he was digging a ditch and felt as
though he was having a "heat stroke" with fever, "dehydration,"
and a non-productive cough. Over the course of the next several
days, his symptoms, particularly fatigue, became progressively
worse and he developed fevers up to 103. He also endorses 
chronic
photophobia subsequent to a concussion he suffered in ___ue to an episode of orthostatic hypotension
that had largely resolved; however, these have gotten more
pronounced in recent days. He denied vomiting, diarrhea, urinary
symptoms, rash, IVDU, new sexual partners, sick contacts, or
recent travel. He did mention that he had recently pulled 
several
ticks of him, most recently on ___. On ___, he was sent from 
his
PCP to the ___ ED for evaluation, where he had a hypotensive
syncopal episode in the waiting room (ECG was unremarkable);
there was no fall or headstrike, and he has no history of
syncope.
 
In the ED, initial vitals were: Temp 100, HR 81, BP 96/50, SpO2
97% RA
- Exam notable for: mild distress, diaphoretic; speech fluent, 
no
gross lateralizing deficits, no meningeal signs, full neck ROM,
A/O x4, no AMS appreciated
- Labs notable for: WBC 3.8, Plt ct ___, Chem7 WNL, ALT 164, AST
194
- Imaging was notable for:
ECG: Unremarkable.
CXR: No acute cardiopulmonary abnormality.
NCHCT: No acute intracranial process.
- Patient was given: IVF, Acetaminophen 1000 mg, Doxycycline
hyclate 100 mg 

Upon arrival to the floor, patient reports feeling right
paraspinal muscle spasms, chills, and generalized malaise.

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) 10 point ROS reviewed and negative unless stated above in 
HPI
  

 
Past Medical History:
- Post-concussion syndrome (suffered a concussion 15 months ago)
- HLD
- OSA (uses CPAP)
- Allergic rhinitis

 
Social History:
___
Family History:
Father died of a stroke at age ___. Mother has a pacemaker. 
 
Physical Exam:
ADMISISON PHYSICAL EXAM:
Vitals: T 100.5, BP 106/69, HR 83, RR 24, O2 sat 98% RA
General: alert, oriented, mild distress, lying in bed shivering
HEENT: sclera anicteric, PERRL, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD, no nuchal rigidity  
Lungs: clear to auscultation bilaterally; no wheezes, rales,
rhonchi  
CV: regular rate and rhythm; normal S1 + S2; no murmurs, rubs,
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present,
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm and well perfused; 2+ pulses; no clubbing, cyanosis or
edema
Skin: no lesions on back, trunk, upper and lower extremities  
Neuro: CNsII-XII grossly intact; motor function grossly normal  

DISCHARGE PHYSICAL EXAM:
Vitals: Tmax 101.5, Tc 99.2, HR 84, BP 104/60, RR 20, O2sat 96% 
cpap
General: Alert, oriented, NAD (looks more comfortable compared 
to last evening), lying in bed, no longer shivering.
HEENT: Sclera anicteric, PERRL, MMM, oropharynx clear  
Neck: Supple, JVP not elevated, no LAD, no nuchal rigidity.  
Lungs: Clear to auscultation bilaterally; no wheezes, rales, 
rhonchi.  
CV: regular rate and rhythm; normal S1 + S2; no murmurs, rubs, 
gallops.  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly.  
GU: No foley.  
Ext: Warm and well perfused; 2+ pulses; no clubbing, cyanosis or 
edema.
Skin: No lesions on back, trunk, upper and lower extremities.  
Neuro: CNsII-XII grossly intact; motor function grossly normal.

 
Pertinent Results:
ADMISSION LABS:
___ 12:20PM BLOOD WBC-3.8* RBC-4.47* Hgb-13.9 Hct-40.6 
MCV-91 MCH-31.1 MCHC-34.2 RDW-12.9 RDWSD-43.1 Plt ___
___ 12:20PM BLOOD Neuts-77.1* Lymphs-12.9* Monos-9.2 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-2.92 AbsLymp-0.49* 
AbsMono-0.35 AbsEos-0.00* AbsBaso-0.01
___ 12:20PM BLOOD Plt ___
___ 12:20PM BLOOD Glucose-123* UreaN-15 Creat-1.1 Na-133 
K-3.9 Cl-99 HCO3-24 AnGap-14
___ 12:20PM BLOOD ALT-164* AST-194* LD(LDH)-320* 
AlkPhos-100 TotBili-0.4
___ 12:20PM BLOOD Albumin-4.0
___ 07:50AM BLOOD Calcium-8.1* Phos-4.6* Mg-2.1
___ 12:20PM BLOOD Hapto-221*
___ 12:39PM BLOOD Lactate-1.4
___ 07:50AM BLOOD Parst S-NEGATIVE

DISCHARGE LABS:
___ 07:50AM BLOOD WBC-3.0* RBC-4.37* Hgb-13.4* Hct-40.5 
MCV-93 MCH-30.7 MCHC-33.1 RDW-13.1 RDWSD-44.5 Plt Ct-93*
___ 07:50AM BLOOD Plt Smr-LOW Plt Ct-93*
___ 07:50AM BLOOD Glucose-112* UreaN-15 Creat-1.0 Na-137 
K-4.3 Cl-102 HCO3-26 AnGap-13
___ 07:50AM BLOOD ALT-183* AST-182* AlkPhos-110 TotBili-0.6
___ 07:50AM BLOOD Calcium-8.1* Phos-4.6* Mg-2.1
___ 07:50AM BLOOD Hapto-218*
___ 07:50AM BLOOD ANAPLASMA PHAGOCYTOPHILUM (HUMAN 
GRANULOCYTIC EHRLICHIA AGENT) IGG/IGM-PND

MICROBIOLOGY:
___ BLOOD CULTURE Blood Culture, Routine-NGTD 
___ BLOOD CULTURE Blood Culture, Routine-NGTD 
___ Blood (LYME) Lyme IgG-PENDING; Lyme IgM-NGTD
___ BLOOD CULTURE Blood Culture, Routine-NGTD

CXR = ___ 
FINDINGS:  
Cardiac size is top normal.  Mediastinal contours unremarkable.  
The lungs are clear.  There is no pneumothorax or pleural 
effusion. 
  
IMPRESSION:  
No acute cardiopulmonary abnormality 

CT Head ___
FINDINGS:  
There is no evidence of large vascular territory infarction, 
acute 
intracranial hemorrhage, edema, or mass effect.  The ventricles 
and sulci are normal in size and configuration. Periventricular 
white matter hypodensities are nonspecific but suggest chronic 
small vessel ischemic disease. 
  
No osseous abnormalities seen.  Moderate mucous retention cyst 
in the left 
sphenoid sinus.  The remaining paranasal sinuses, mastoid air 
cells, and 
middle ear cavities are clear. The orbits are unremarkable. 
  
IMPRESSION:  
No acute intracranial process. 

 
Brief Hospital Course:
Mr. ___ is a ___ male from ___ who 
presents with several days of progressively worsening malaise, 
fatigue, fevers, weakness, headache, and myalgia, in the setting 
of recent tick exposure, now on doxycycline.

Patient presented with several days of fatigue, myalgias, and
fever, in the setting of known recent tick exposure. He reported 
fevers at home up to ___. He did mention that he had recently 
pulled several ticks of him, most recently on ___. On exam, he 
was febrile and mildly photophobic, without nuchal rigidity. 
Most likely etiology for his presentation was thought to be 
tick-borne illness given fatigue, headache, and myalgias. Human 
granulocytic anaplasmosis was thought to be the most likely 
etiology given patient's leukopenia, thrombocytopenia, and 
elevated aminotransferases, as well as geography and season. 
Ehrlichia was thought to be a less likely geographical illness. 
Early-localized Lyme was also on the differential, though 
thought to be less likely. Babesiosis is less likely given no 
evidence of hemolytic anemia (hapto 221). Patient was started on 
doxycycline while in the ED and transitioned to a PO course on 
___. He expressed a preference the leave the hospital and have 
his outpatient PCP ___ his serologies. He was written a 
script to have his labs checked and faxed to his PCP.

======================
CHRONIC ISSUES:
======================
OSA: Continued CPAP.
Back spasms: Continued diazepam PRN.
Post-Concussive Syndrome: Continued bupropion, methylphenidate
PRN, escitalopram.

TRANSITIONAL ISSUES:
- patient had blood cultures, lyme, and anaplasma studies which 
were pending at time of discharge that warrant ___.
- patient was continued on a 10 day course of doxycycline 
(through ___ morning).
- patient was given a script to have a CBC, chem 7, and LFTs 
drawn at an outside lab and faxed to his PCP
# CODE: Full (confirmed with patient) 
# CONTACT: ___ (wife; ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 300 mg PO DAILY 
2. MethylPHENIDATE (Ritalin) 5 mg PO DAILY 
3. Escitalopram Oxalate 5 mg PO DAILY 
4. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
please continue through ___ morning 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*18 Capsule Refills:*0 
2.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
3.  Cetirizine 10 mg PO DAILY  
4.  Escitalopram Oxalate 5 mg PO DAILY  
5.  MethylPHENIDATE (Ritalin) 5 mg PO DAILY  
6.Outpatient Lab Work
Please draw CBC with differential, chemistry panel (chem 7), and 
LFT profile. fax to patient's primary care doctor ___ 
___: ___ 
Dx: Human granulocytic anaplasmosis A___.8

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
--------------------
Human granulocytic anaplasmosis

Secondary Diagnosis:
Post-concussion syndrome
Obstructive Sleep Apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after you developed a pattern 
of fatigue, weakness, headache, and neck/back pain with fevers, 
and difficulty seeing bright lights that was concerning for a 
pattern of symptoms associated with tickborne illnesses. You had 
told your primary care provider that you had removed several 
ticks from your body on ___ and earlier.

This was concerning for the tickborne illness called 
anaplasmosis. You were evaluated with blood work and imaging 
which demonstrated low white blood cell counts, platelets, and 
elevated liver function tests that were consistent with this 
illness. You were started on IV antibiotics in the emergency 
room. Many of the confirmatory tests for the suspected condition 
are still pending, but given that you expressed a preference for 
returning home, we have opted to prescribe you antibiotics and 
recommend you ___ in approximately 1 week in order to have 
results reviewed.

You expressed a preference to schedule your primary care 
appointment yourself. Please ask to be seen within ___ days of 
leaving the hospital.

Please go to any lab with the script included here to have your 
labs drawn and sent to your primary care doctor's office.

It was a pleasure to be involved with your care,

Your ___ Team.
 
Followup Instructions:
___